US08877961B2
2-[(tert-Butyloxycarbonyl)-(3-hydroxy-propyl)-amino]-acetic acid ethyl ester
(3-Hydroxy-propylamino)-acetic acid ethyl ester (83 g; 0.515 mol) is dissolved in methylene chloride (240 ml) at 2-5° C. BOC anhydride (112.5 g; 0.514 mol) is added slowly. The mixture is stirred at 2-5° C. for one hour. LC-MS indicated that all starting material has reacted. The solvent is removed under reduced pressure at 30° C. A yellow oil is obtained (157 g; quantitative yield)

reactant | (3-Hydroxy-propylamino)-acetic acid ethyl ester | 0.515 mol, 83 g | C(C)OC(CNCCCO)=O | C7H15NO3
reactant | BOC anhydride | 0.514 mol, 112.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
product | 2-[(tert-Butyloxycarbonyl)-(3-hydroxy-propyl)-amino]-acetic acid ethyl ester | quantitative yield | C(C)OC(CN(CCCO)C(=O)OC(C)(C)C)=O | C12H23NO5
